US07872014B2
Methyl 2-{[2-(methyloxy)ethyl]oxy}-5-nitro-3-[(phenylcarbonyl)oxy]benzoate (8.1 g, 21.6 mmol) was dissolved in methanol (150 mL) followed by the addition of potassium carbonate (3.3 g, 24 mmol). The reaction mixture was stirred at room temperature for one hour, filtered and then acidified with 4N hydrogen chloride in dioxane. It was concentrated and then re-dissolved in ethyl acetate (100 mL), washed with water and brine (100 mL each), dried over sodium sulfate, filtered and concentrated to give an oily residue which was purified by flash chromatography (silica gel, 30% ethyl acetate-hexane) to provide methyl 3-hydroxy-2-{[2-(methyloxy)ethyl]oxy}-5-nitrobenzoate (8.1 g, 21.0 mmol, 97% yield). 1H NMR (400 MHz, CDCl3): 8.69 (s, 1H), 8.24-8.23 (d, 1H), 7.95-7.94 (d, 1H), 4.31-4.29 (m, 2H), 3.95 (s, 3H), 3.79-3.77 (m, 2H), 3.58 (s, 3H).

reactant | Methyl 2-{[2-(methyloxy)ethyl]oxy}-5-nitro-3-[(phenylcarbonyl)oxy]benzoate | 21.6 mmol, 8.1 g | COCCOC1=C(C(=O)OC)C=C(C=C1OC(=O)C1=CC=CC=C1)[N+](=O)[O-] | C18H17NO8
reactant | potassium carbonate | 24 mmol, 3.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 150 mL | CO | CH4O
product | methyl 3-hydroxy-2-{[2-(methyloxy)ethyl]oxy}-5-nitrobenzoate | 21.0 mmol, 8.1 g, 97% yield | OC=1C(=C(C(=O)OC)C=C(C1)[N+](=O)[O-])OCCOC | C11H13NO7
